### PR TITLE
[Merged by Bors] - chore: weekly lints for 2026-02-16

### PR DESCRIPTION
**Pull request by chenson2018**
Changes suggested by the `mergeWithGrind` linter, from the weekly job posted at [#mathlib4 > Weekly linting log @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Weekly.20linting.20log/near/574041907).

As suggested by @Vierkantor, I have used the `linter.tacticAnalysis.mergeWithGrind` option to turn off the linter in two theorems: one where there was a comment about not making this change for performance reasons and another that appears to be a bug with the linter.

Now that there is a precedent for using the `grind` interactive mode in Mathlib, I have used this in one proof where it results in fewer calls to `grind` and a clearer proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Setoid/Partition.lean [hunk 1]
```diff
@@ -508,11 +508,12 @@ noncomputable def coarserPartition (hs : IndexedPartition s) {κ : Type*} (g : 
...
-    simp only [← hd, mem_iUnion] at hb
-    have : c = d := hs.eq_of_mem ha.2 hb.2
-    by_contra!
-    grind [disjoint_iff_forall_ne.mp ((disjoint_singleton.mpr this).preimage g) ha.1 hb.1]
+    grind =>
+      instantiate [mem_iUnion]
+      have hb : _x ∈ s d
+      have ha : _x ∈ s c
+      have : c = d := hs.eq_of_mem ha hb
+      finish
```
Comment (JovanGerb) [inline Mathlib/Data/Setoid/Partition.lean:516]: Maybe give `_x` an underscore-free name?

File: Mathlib/MeasureTheory/MeasurableSpace/Pi.lean [hunk 2]
```diff
@@ -61,6 +61,7 @@ theorem IsCountablySpanning.pi {C : ∀ i, Set (Set (α i))} (hC : ∀ i, IsCoun
     (surjective_decode_getD (ι → ℕ) default).iUnion_comp fun x => Set.pi univ fun i => s i (x i),
     iUnion_univ_pi s, h2s, pi_univ]
 
+set_option linter.tacticAnalysis.mergeWithGrind false in
```
Comment (Vierkantor) [inline Mathlib/MeasureTheory/MeasurableSpace/Pi.lean:65]:
```suggestion
-- `grind` can close the goal from the point marked by the comment below, but is slow
set_option linter.tacticAnalysis.mergeWithGrind false in
```

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 3]
```diff
@@ -57,6 +57,8 @@ theorem Prod.associated_iff {M N : Type*} [Monoid M] [Monoid N] {x z : M × N} :
   fun ⟨⟨u₁, h₁⟩, ⟨u₂, h₂⟩⟩ =>
     ⟨MulEquiv.prodUnits.invFun (u₁, u₂), Prod.eq_iff_fst_eq_snd_eq.2 ⟨h₁, h₂⟩⟩⟩
 
+-- TODO: this seems to trigger a bug in the mergeWithGrind linter
```
Comment (Vierkantor) [inline Mathlib/Algebra/BigOperators/Associated.lean:60]: Could you add this as a (failing) test case to `MathlibTest/TacticAnalysis.lean? Then we can track the bug better without worrying about it disappearing when this proof gets changed.

**Review by Vierkantor — APPROVED** [review]
Thanks for cleaning up the tech debt! 🎉 

bors d+

File: Mathlib/Algebra/BigOperators/Associated.lean (hunk 3 above)
Comment (chenson2018) [reply Mathlib/Algebra/BigOperators/Associated.lean:60]: I have added this test, along with a comment about what seems to be happening. I tried for quite a while to devise a test that didn't need any additional imports, but found this pretty difficult/verbose. Instead I just added primes to the couple of names in other tests that became duplicate.

**Comment by chenson2018** [comment]
bors merge
